US04714492
1.5 gms of 1-propyl-2,6-diphenyl-4-oxonicotinic acid, 0.202 gms of NaOH and 50 mls of dry methanol were mixed. Evaporation of the solvent yielded 1.5 gms of sodium 1-propyl-2,6-diphenyl-4-oxonicotinate as a white glassy solid.

reactant | 1-propyl-2,6-diphenyl-4-oxonicotinic acid | 1.5 gms | C(CC)N1C(=C(C(=O)O)C(C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1 | C21H19NO3
reactant | NaOH | 0.202 gms | [OH-].[Na+]
solvent | methanol | 50 mls | CO | CH4O
product | sodium 1-propyl-2,6-diphenyl-4-oxonicotinate | 1.5 gms | C(CC)N1C(=C(C(=O)[O-])C(C=C1C1=CC=CC=C1)=O)C1=CC=CC=C1.[Na+] | InChI=1S/C21H19NO3.Na/c1-2-13-22-17(15-9-5-3-6-10-15)14-18(23)19(21(24)25)20(22)16-11-7-4-8-12-16;/h3-12,14H,2,13H2,1H3,(H,24,25);/q;+1/p-1
